US08349880B2
Methyl 4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluorophenylcarbamimidothioate, hydroiodide (600 mg, 1.47 mmol, from preparation T) and 6-chloro-2-(4-(2,2-difluoroethoxy)phenyl)hexanoic acid (475 mg, 1.55 mmol, from preparation AX) were coupled [N-methylmorpholine (0.810 mL, 7.37 mmol) was substituted for N,N-diisopropylethylamine] and then reacted with hydrazine (0.231 mL, 7.37 mmol) using a procedure analogous to Step A of Example 13. After an aqueous workup, crude 5-(5-chloro-1-(4-(2,2-difluoroethoxy)phenyl)pentyl)-N-(4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluorophenyl)-1H-1,2,4-triazol-3-amine was obtained as a brown gummy oil. LC-MS (M+H)+ 534.4.

reactant | Methyl 4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluorophenylcarbamimidothioate, hydroiodide | 1.47 mmol, 600 mg | I.CC1=NN(C(=N1)C)C1=C(C=C(C=C1)NC(=N)SC)F
reactant | 6-chloro-2-(4-(2,2-difluoroethoxy)phenyl)hexanoic acid | 1.55 mmol, 475 mg | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OCC(F)F | C14H17ClF2O3
reactant | N-methylmorpholine | 7.37 mmol, 0.810 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 7.37 mmol, 0.231 mL | NN | H4N2
product | 5-(5-chloro-1-(4-(2,2-difluoroethoxy)phenyl)pentyl)-N-(4-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-3-fluorophenyl)-1H-1,2,4-triazol-3-amine | ClCCCCC(C1=CC=C(C=C1)OCC(F)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1N=C(N=C1C)C)F | C25H27ClF3N7O
